US05420275
N-Boc-p-hydroxyphenylglycine.
To 33.4 g (0.2 mol) of p-hydroxyphenylglycine were added 110 ml of water, 42 ml (1.5 eq.) of triethylamine, 52.8 g (1.1 eq.) of S-t-butoxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine and 110 ml of dioxane, and the mixture was stirred at room temperature for 14 hours. To the reaction mixture was added 300 ml of water, and the mixture was extracted with 400 ml of ethyl acetate. The organic layer was extracted with 100 ml of a 5% aqueous solution of sodium hydrogencarbonate. The aqueous layers were combined, adjusted to pH 3 with 5N hydrochloric acid under ice-cooling and extracted with ethyl acetate. The organic layer was washed with an aqueous solution of potassium hydrogensulfate and a saturated aqueous solution of sodium chloride, and dried over magnesium sulfate. The solvent was distilled off. The thus-obtained crystals were collected by filtration with ethyl acetate/hexane. Yield: 46.0 g (86.1%).

reactant | p-hydroxyphenylglycine | 0.2 mol, 33.4 g | OC1=CC=C(C=C1)NCC(=O)O | C8H9NO3
reactant | triethylamine | 42 ml, 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | S-t-butoxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine | 52.8 g, 1.1 eq. | C(C)(C)(C)OC(=O)SC1=NC(=CC(=N1)C)C | C11H16N2O2S
solvent | water | 300 ml | O | H2O
solvent | dioxane | 110 ml | O1CCOCC1 | C4H8O2
solvent | water | 110 ml | O | H2O
product | N-Boc-p-hydroxyphenylglycine | C(=O)(OC(C)(C)C)N(CC(=O)O)C1=CC=C(C=C1)O | C13H17NO5
